US05102877
To a solution of 4-acetyl-1-allyloxycarbonyl-4-hydroxypiperidine (0.2 g) in pyridine (4.0 ml) was added dropwise thionyl chloride (0.12 ml) at -20° C. The resultant mixture was allowed to warm to ambient temperature for 1 hour and stirred for another period of 2 hours. Evaporation of the mixture in vacuo gave a residue which was taken up into a mixture of ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (10 g) eluting with a mixture of n-hexane and ethyl acetate (9:1-1:1 V/V) to give 4-acetyl-1-allyloxycarbonyl-1,2,3,6-tetrahydropyridine (69 mg).

reactant | 4-acetyl-1-allyloxycarbonyl-4-hydroxypiperidine | 0.2 g | C(C)(=O)C1(CCN(CC1)C(=O)OCC=C)O | C11H17NO4
reactant | thionyl chloride | 0.12 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetyl-1-allyloxycarbonyl-1,2,3,6-tetrahydropyridine | 69 mg | C(C)(=O)C=1CCN(CC1)C(=O)OCC=C | C11H15NO3
